US04857527
To a solution of 3-(2-morpholinoethylcarbamoyl)-methyl-4-(3-nitrophenyl)-6-phenylpyridine (3 g) in ethanol (60 ml) was added concentrated hydrochloric acid (1.68 ml) and water (3.32 ml). The separated crystal was filtered, washed with ethanol (20 ml) and dried in vacuo to give 3-(2-morpholinoethylcarbamoyl)-methyl-4-(3-nitrophenyl)-6-phenylpyridine dihydrochloride (2.91 g).

reactant | 3-(2-morpholinoethylcarbamoyl)-methyl-4-(3-nitrophenyl)-6-phenylpyridine | 3 g | O1CCN(CC1)CCNC(=O)C=1C(=NC(=CC1C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)C | C25H26N4O4
reactant | hydrochloric acid | 1.68 ml | Cl | ClH
reactant | water | 3.32 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(2-morpholinoethylcarbamoyl)-methyl-4-(3-nitrophenyl)-6-phenylpyridine dihydrochloride | 2.91 g | Cl.Cl.O1CCN(CC1)CCNC(=O)C=1C(=NC(=CC1C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)C | InChI=1S/C25H26N4O4.2ClH/c1-18-24(25(30)26-10-11-28-12-14-33-15-13-28)22(20-8-5-9-21(16-20)29(31)32)17-23(27-18)19-6-3-2-4-7-19;;/h2-9,16-17H,10-15H2,1H3,(H,26,30);2*1H
